US05556864
20(a) N,N-Dimethyl-3-{2-[4-(2-methoxyphenyl)butyl]phenoxy}propylamine
Following a procedure similar to that described in Example 2(a), 200 mg of 2-[4-(2-methoxyphenyl)butyl]phenol (prepared as described in Preparation 4), 75 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) and 0.14 g of 3-dimethylaminopropyl chloride hydrochloride were reacted in 20 ml of dimethylacetamide. The crude product, extracted as described in Example 2(a), was purified by column chromatography through silica gel, using a 10:1 by volume mixture of methylene chloride and methanol as the eluent, to give 227 mg (yield 85%) of the title compound as pale yellow solid.

reactant | 2-[4-(2-methoxyphenyl)butyl]phenol | 200 mg | COC1=C(C=CC=C1)CCCCC1=C(C=CC=C1)O | C17H20O2
reactant | sodium hydride | 75 mg | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride hydrochloride | 0.14 g | Cl.CN(CCCCl)C
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | N,N-Dimethyl-3-{2-[4-(2-methoxyphenyl)butyl]phenoxy}propylamine | 227 mg, yield 85% | CN(C)CCCOC1=C(C=CC=C1)CCCCC1=C(C=CC=C1)OC | C22H31NO2
